** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J10a: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 1.000000% RMS
** (seeded RNG, seed 185010), TR = TF = 20 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.990000n 0 2.010000n 1.8 3.957587n 1.8
+ 3.977587n 0 5.925174n 0 5.945174n 1.8 7.902706n 1.8
+ 7.922706n 0 9.880239n 0 9.900239n 1.8 11.799488n 1.8
+ 11.819488n 0 13.718738n 0 13.738738n 1.8 15.690628n 1.8
+ 15.710628n 0 17.662519n 0 17.682519n 1.8 19.643921n 1.8
+ 19.663921n 0 21.625324n 0 21.645324n 1.8 23.568011n 1.8
+ 23.588011n 0 25.510698n 0 25.530698n 1.8 27.441104n 1.8
+ 27.461104n 0 29.371509n 0 29.391509n 1.8 31.340456n 1.8
+ 31.360456n 0 33.309404n 0 33.329404n 1.8 35.261235n 1.8
+ 35.281235n 0 37.213066n 0 37.233066n 1.8 39.179098n 1.8
+ 39.199098n 0 41.145130n 0 41.165130n 1.8 43.098410n 1.8
+ 43.118410n 0 45.051691n 0 45.071691n 1.8 46.996346n 1.8
+ 47.016346n 0 48.941000n 0 48.961000n 1.8 50.912296n 1.8
+ 50.932296n 0 52.883592n 0 52.903592n 1.8 54.837858n 1.8
+ 54.857858n 0 56.792123n 0 56.812123n 1.8 58.746420n 1.8
+ 58.766420n 0 60.700717n 0 60.720717n 1.8 62.663219n 1.8
+ 62.683219n 0 64.625720n 0 64.645720n 1.8 66.579666n 1.8
+ 66.599666n 0 68.533611n 0 68.553611n 1.8 70.499970n 1.8
+ 70.519970n 0 72.466329n 0 72.486329n 1.8 74.420021n 1.8
+ 74.440021n 0 76.373714n 0 76.393714n 1.8 78.359536n 1.8
+ 78.379536n 0 80.345357n 0 80.365357n 1.8 82.256974n 1.8
+ 82.276974n 0 84.168592n 0 84.188592n 1.8 86.143946n 1.8
+ 86.163946n 0 88.119300n 0 88.139300n 1.8 90.055099n 1.8
+ 90.075099n 0 91.990898n 0 92.010898n 1.8 93.934309n 1.8
+ 93.954309n 0 95.877720n 0 95.897720n 1.8 97.798553n 1.8
+ 97.818553n 0 99.719386n 0 99.739386n 1.8 101.694522n 1.8
+ 101.714522n 0 103.669659n 0 103.689659n 1.8 105.597584n 1.8
+ 105.617584n 0 107.525510n 0 107.545510n 1.8 109.466588n 1.8
+ 109.486588n 0 111.407665n 0 111.427665n 1.8 113.357539n 1.8
+ 113.377539n 0 115.307412n 0 115.327412n 1.8 117.278125n 1.8
+ 117.298125n 0 119.248838n 0 119.268838n 1.8 121.195444n 1.8
+ 121.215444n 0 123.142051n 0 123.162051n 1.8 125.100528n 1.8
+ 125.120528n 0 127.059005n 0 127.079005n 1.8 128.992948n 1.8
+ 129.012948n 0 130.926891n 0 130.946891n 1.8 132.864925n 1.8
+ 132.884925n 0 134.802958n 0 134.822958n 1.8 136.774613n 1.8
+ 136.794613n 0 138.746268n 0 138.766268n 1.8 140.676354n 1.8
+ 140.696354n 0 142.606440n 0 142.626440n 1.8 144.573552n 1.8
+ 144.593552n 0 146.540664n 0 146.560664n 1.8 148.501420n 1.8
+ 148.521420n 0 150.462176n 0 150.482176n 1.8 152.421191n 1.8
+ 152.441191n 0 154.380206n 0 154.400206n 1.8 156.311172n 1.8
+ 156.331172n 0 158.242138n 0 158.262138n 1.8 160.193538n 1.8
+ 160.213538n 0 162.144938n 0 162.164938n 1.8 164.093802n 1.8
+ 164.113802n 0 166.042666n 0 166.062666n 1.8 167.984949n 1.8
+ 168.004949n 0 169.927233n 0 169.947233n 1.8 171.918640n 1.8
+ 171.938640n 0 173.910048n 0 173.930048n 1.8 175.844551n 1.8
+ 175.864551n 0 177.779054n 0 177.799054n 1.8 179.719152n 1.8
+ 179.739152n 0 181.659250n 0 181.679250n 1.8 183.598568n 1.8
+ 183.618568n 0 185.537886n 0 185.557886n 1.8 187.467655n 1.8
+ 187.487655n 0 189.397423n 0 189.417423n 1.8 191.345155n 1.8
+ 191.365155n 0 193.292888n 0 193.312888n 1.8 195.248147n 1.8
+ 195.268147n 0 197.203406n 0 197.223406n 1.8 199.137563n 1.8
+ 199.157563n 0 201.071720n 0 201.091720n 1.8 202.980503n 1.8
+ 203.000503n 0 204.889286n 0 204.909286n 1.8 206.844163n 1.8
+ 206.864163n 0 208.799039n 0 208.819039n 1.8 210.753509n 1.8
+ 210.773509n 0 212.707979n 0 212.727979n 1.8 214.680097n 1.8
+ 214.700097n 0 216.652214n 0 216.672214n 1.8 218.602178n 1.8
+ 218.622178n 0 220.552141n 0 220.572141n 1.8 222.518435n 1.8
+ 222.538435n 0 224.484728n 0 224.504728n 1.8 226.464648n 1.8
+ 226.484648n 0 228.444567n 0 228.464567n 1.8 230.391638n 1.8
+ 230.411638n 0 232.338708n 0 232.358708n 1.8 234.305738n 1.8
+ 234.325738n 0 236.272768n 0 236.292768n 1.8 238.242998n 1.8
+ 238.262998n 0 240.213229n 0 240.233229n 1.8 242.169197n 1.8
+ 242.189197n 0 244.125165n 0 244.145165n 1.8 246.069002n 1.8
+ 246.089002n 0 248.012838n 0 248.032838n 1.8 249.960750n 1.8
+ 249.980750n 0 251.908663n 0 251.928663n 1.8 253.914114n 1.8
+ 253.934114n 0 255.919565n 0 255.939565n 1.8 257.911423n 1.8
+ 257.931423n 0 259.903281n 0 259.923281n 1.8 261.861691n 1.8
+ 261.881691n 0 263.820100n 0 263.840100n 1.8 265.821600n 1.8
+ 265.841600n 0 267.823100n 0 267.843100n 1.8 269.765644n 1.8
+ 269.785644n 0 271.708188n 0 271.728188n 1.8 273.672219n 1.8
+ 273.692219n 0 275.636251n 0 275.656251n 1.8 277.612987n 1.8
+ 277.632987n 0 279.589724n 0 279.609724n 1.8 281.549622n 1.8
+ 281.569622n 0 283.509520n 0 283.529520n 1.8 285.466046n 1.8
+ 285.486046n 0 287.422571n 0 287.442571n 1.8 289.356826n 1.8
+ 289.376826n 0 291.291080n 0 291.311080n 1.8 293.208970n 1.8
+ 293.228970n 0 295.126859n 0 295.146859n 1.8 297.092262n 1.8
+ 297.112262n 0 299.057664n 0 299.077664n 1.8 301.004107n 1.8
+ 301.024107n 0 302.950550n 0 302.970550n 1.8 304.942856n 1.8
+ 304.962856n 0 306.935163n 0 306.955163n 1.8 308.848824n 1.8
+ 308.868824n 0 310.762485n 0 310.782485n 1.8 312.694532n 1.8
+ 312.714532n 0 314.626578n 0 314.646578n 1.8 316.584694n 1.8
+ 316.604694n 0 318.542810n 0 318.562810n 1.8 320.491457n 1.8
+ 320.511457n 0 322.440104n 0 322.460104n 1.8 324.383454n 1.8
+ 324.403454n 0 326.326804n 0 326.346804n 1.8 328.310440n 1.8
+ 328.330440n 0 330.294075n 0 330.314075n 1.8 332.240001n 1.8
+ 332.260001n 0 334.185927n 0 334.205927n 1.8 336.147631n 1.8
+ 336.167631n 0 338.109335n 0 338.129335n 1.8 340.094657n 1.8
+ 340.114657n 0 342.079979n 0 342.099979n 1.8 344.024561n 1.8
+ 344.044561n 0 345.969143n 0 345.989143n 1.8 347.918678n 1.8
+ 347.938678n 0 349.868213n 0 349.888213n 1.8 351.806855n 1.8
+ 351.826855n 0 353.745497n 0 353.765497n 1.8 355.699135n 1.8
+ 355.719135n 0 357.652773n 0 357.672773n 1.8 359.644792n 1.8
+ 359.664792n 0 361.636811n 0 361.656811n 1.8 363.589707n 1.8
+ 363.609707n 0 365.542604n 0 365.562604n 1.8 367.490733n 1.8
+ 367.510733n 0 369.438863n 0 369.458863n 1.8 371.395355n 1.8
+ 371.415355n 0 373.351847n 0 373.371847n 1.8 375.344057n 1.8
+ 375.364057n 0 377.336266n 0 377.356266n 1.8 379.273298n 1.8
+ 379.293298n 0 381.210331n 0 381.230331n 1.8 383.181373n 1.8
+ 383.201373n 0 385.152415n 0 385.172415n 1.8 387.107329n 1.8
+ 387.127329n 0 389.062244n 0 389.082244n 1.8 391.031558n 1.8
+ 391.051558n 0 393.000873n 0 393.020873n 1.8 394.945352n 1.8
+ 394.965352n 0 396.889832n 0 396.909832n 1.8 398.869878n 1.8
+ 398.889878n 0 400.849924n 0 400.869924n 1.8 402.836665n 1.8
+ 402.856665n 0 404.823407n 0 404.843407n 1.8 406.759845n 1.8
+ 406.779845n 0 408.696282n 0 408.716282n 1.8 410.669704n 1.8
+ 410.689704n 0 412.643125n 0 412.663125n 1.8 414.562846n 1.8
+ 414.582846n 0 416.482567n 0 416.502567n 1.8 418.443025n 1.8
+ 418.463025n 0 420.403483n 0 420.423483n 1.8 422.349298n 1.8
+ 422.369298n 0 424.295114n 0 424.315114n 1.8 426.224864n 1.8
+ 426.244864n 0 428.154615n 0 428.174615n 1.8 430.124682n 1.8
+ 430.144682n 0 432.094749n 0 432.114749n 1.8 434.057902n 1.8
+ 434.077902n 0 436.021054n 0 436.041054n 1.8 437.996541n 1.8
+ 438.016541n 0 439.972028n 0 439.992028n 1.8 441.920071n 1.8
+ 441.940071n 0 443.868114n 0 443.888114n 1.8 445.831175n 1.8
+ 445.851175n 0 447.794236n 0 447.814236n 1.8 449.744138n 1.8
+ 449.764138n 0 451.694040n 0 451.714040n 1.8 453.673686n 1.8
+ 453.693686n 0 455.653332n 0 455.673332n 1.8 457.595453n 1.8
+ 457.615453n 0 459.537574n 0 459.557574n 1.8 461.487655n 1.8
+ 461.507655n 0 463.437736n 0 463.457736n 1.8 465.399671n 1.8
+ 465.419671n 0 467.361606n 0 467.381606n 1.8 469.310058n 1.8
+ 469.330058n 0 471.258510n 0 471.278510n 1.8 473.206913n 1.8
+ 473.226913n 0 475.155317n 0 475.175317n 1.8 477.119255n 1.8
+ 477.139255n 0 479.083193n 0 479.103193n 1.8 481.059885n 1.8
+ 481.079885n 0 483.036576n 0 483.056576n 1.8 484.999378n 1.8
+ 485.019378n 0 486.962179n 0 486.982179n 1.8 488.925751n 1.8
+ 488.945751n 0 490.889322n 0 490.909322n 1.8 492.846471n 1.8
+ 492.866471n 0 494.803621n 0 494.823621n 1.8 496.801841n 1.8
+ 496.821841n 0 498.800062n 0 498.820062n 1.8 500.771417n 1.8
+ 500.791417n 0 502.742772n 0 502.762772n 1.8 504.713085n 1.8
+ 504.733085n 0 506.683398n 0 506.703398n 1.8 508.662969n 1.8
+ 508.682969n 0 510.642540n 0 510.662540n 1.8 512.640574n 1.8
+ 512.660574n 0 514.638607n 0 514.658607n 1.8 516.598316n 1.8
+ 516.618316n 0 518.558024n 0 518.578024n 1.8 520.511929n 1.8
+ 520.531929n 0 522.465834n 0 522.485834n 1.8 524.446108n 1.8
+ 524.466108n 0 526.426381n 0 526.446381n 1.8 528.393064n 1.8
+ 528.413064n 0 530.359747n 0 530.379747n 1.8 532.343980n 1.8
+ 532.363980n 0 534.328214n 0 534.348214n 1.8 536.306551n 1.8
+ 536.326551n 0 538.284889n 0 538.304889n 1.8 540.217189n 1.8
+ 540.237189n 0 542.149489n 0 542.169489n 1.8 544.131375n 1.8
+ 544.151375n 0 546.113261n 0 546.133261n 1.8 548.095233n 1.8
+ 548.115233n 0 550.077204n 0 550.097204n 1.8 552.050022n 1.8
+ 552.070022n 0 554.022839n 0 554.042839n 1.8 555.975706n 1.8
+ 555.995706n 0 557.928573n 0 557.948573n 1.8 559.900459n 1.8
+ 559.920459n 0 561.872345n 0 561.892345n 1.8 563.845811n 1.8
+ 563.865811n 0 565.819276n 0 565.839276n 1.8 567.775830n 1.8
+ 567.795830n 0 569.732384n 0 569.752384n 1.8 571.702968n 1.8
+ 571.722968n 0 573.673552n 0 573.693552n 1.8 575.658164n 1.8
+ 575.678164n 0 577.642777n 0 577.662777n 1.8 579.640439n 1.8
+ 579.660439n 0 581.638101n 0 581.658101n 1.8 583.561739n 1.8
+ 583.581739n 0 585.485377n 0 585.505377n 1.8 587.429910n 1.8
+ 587.449910n 0 589.374444n 0 589.394444n 1.8 591.321208n 1.8
+ 591.341208n 0 593.267972n 0 593.287972n 1.8 595.228809n 1.8
+ 595.248809n 0 597.189645n 0 597.209645n 1.8 599.144166n 1.8
+ 599.164166n 0 601.098686n 0 601.118686n 1.8 603.083648n 1.8
+ 603.103648n 0 605.068610n 0 605.088610n 1.8 607.035995n 1.8
+ 607.055995n 0 609.003380n 0 609.023380n 1.8 610.946717n 1.8
+ 610.966717n 0 612.890053n 0 612.910053n 1.8 614.859379n 1.8
+ 614.879379n 0 616.828706n 0 616.848706n 1.8 618.812239n 1.8
+ 618.832239n 0 620.795773n 0 620.815773n 1.8 622.748676n 1.8
+ 622.768676n 0 624.701580n 0 624.721580n 1.8 626.653616n 1.8
+ 626.673616n 0 628.605652n 0 628.625652n 1.8 630.600946n 1.8
+ 630.620946n 0 632.596239n 0 632.616239n 1.8 634.584996n 1.8
+ 634.604996n 0 636.573753n 0 636.593753n 1.8 638.512007n 1.8
+ 638.532007n 0 640.450262n 0 640.470262n 1.8 642.434529n 1.8
+ 642.454529n 0 644.418795n 0 644.438795n 1.8 646.364505n 1.8
+ 646.384505n 0 648.310216n 0 648.330216n 1.8 650.291482n 1.8
+ 650.311482n 0 652.272748n 0 652.292748n 1.8 654.237596n 1.8
+ 654.257596n 0 656.202444n 0 656.222444n 1.8 658.168982n 1.8
+ 658.188982n 0 660.135520n 0 660.155520n 1.8 662.081855n 1.8
+ 662.101855n 0 664.028191n 0 664.048191n 1.8 665.975187n 1.8
+ 665.995187n 0 667.922183n 0 667.942183n 1.8 669.909227n 1.8
+ 669.929227n 0 671.896271n 0 671.916271n 1.8 673.817805n 1.8
+ 673.837805n 0 675.739339n 0 675.759339n 1.8 677.722033n 1.8
+ 677.742033n 0 679.704728n 0 679.724728n 1.8 681.654308n 1.8
+ 681.674308n 0 683.603889n 0 683.623889n 1.8 685.560725n 1.8
+ 685.580725n 0 687.517561n 0 687.537561n 1.8 689.441112n 1.8
+ 689.461112n 0 691.364662n 0 691.384662n 1.8 693.314420n 1.8
+ 693.334420n 0 695.264178n 0 695.284178n 1.8 697.216560n 1.8
+ 697.236560n 0 699.168943n 0 699.188943n 1.8 701.142020n 1.8
+ 701.162020n 0 703.115096n 0 703.135096n 1.8 705.070270n 1.8
+ 705.090270n 0 707.025444n 0 707.045444n 1.8 708.995501n 1.8
+ 709.015501n 0 710.965557n 0 710.985557n 1.8 712.911978n 1.8
+ 712.931978n 0 714.858399n 0 714.878399n 1.8 716.838113n 1.8
+ 716.858113n 0 718.817828n 0 718.837828n 1.8 720.776338n 1.8
+ 720.796338n 0 722.734848n 0 722.754848n 1.8 724.702968n 1.8
+ 724.722968n 0 726.671087n 0 726.691087n 1.8 728.650394n 1.8
+ 728.670394n 0 730.629702n 0 730.649702n 1.8 732.578990n 1.8
+ 732.598990n 0 734.528277n 0 734.548277n 1.8 736.481439n 1.8
+ 736.501439n 0 738.434601n 0 738.454601n 1.8 740.394355n 1.8
+ 740.414355n 0 742.354108n 0 742.374108n 1.8 744.328251n 1.8
+ 744.348251n 0 746.302393n 0 746.322393n 1.8 748.239591n 1.8
+ 748.259591n 0 750.176789n 0 750.196789n 1.8 752.140370n 1.8
+ 752.160370n 0 754.103950n 0 754.123950n 1.8 756.063553n 1.8
+ 756.083553n 0 758.023156n 0 758.043156n 1.8 759.976980n 1.8
+ 759.996980n 0 761.930804n 0 761.950804n 1.8 763.904867n 1.8
+ 763.924867n 0 765.878930n 0 765.898930n 1.8 767.869078n 1.8
+ 767.889078n 0 769.859225n 0 769.879225n 1.8 771.823516n 1.8
+ 771.843516n 0 773.787807n 0 773.807807n 1.8 775.699412n 1.8
+ 775.719412n 0 777.611017n 0 777.631017n 1.8 779.579050n 1.8
+ 779.599050n 0 781.547084n 0 781.567084n 1.8 783.526384n 1.8
+ 783.546384n 0 785.505684n 0 785.525684n 1.8 787.490672n 1.8
+ 787.510672n 0 789.475660n 0 789.495660n 1.8 791.409575n 1.8
+ 791.429575n 0 793.343490n 0 793.363490n 1.8 795.311912n 1.8
+ 795.331912n 0 797.280334n 0 797.300334n 1.8 799.228880n 1.8
+ 799.248880n 0 801.177425n 0 801.197425n 1.8 803.153109n 1.8
+ 803.173109n 0 805.128793n 0 805.148793n 1.8 807.066830n 1.8
+ 807.086830n 0 809.004868n 0 809.024868n 1.8 810.966025n 1.8
+ 810.986025n 0 812.927183n 0 812.947183n 1.8 814.877642n 1.8
+ 814.897642n 0 816.828101n 0 816.848101n 1.8 818.747021n 1.8
+ 818.767021n 0 820.665940n 0 820.685940n 1.8 822.579536n 1.8
+ 822.599536n 0 824.493131n 0 824.513131n 1.8 826.440594n 1.8
+ 826.460594n 0 828.388057n 0 828.408057n 1.8 830.368284n 1.8
+ 830.388284n 0 832.348510n 0 832.368510n 1.8 834.307286n 1.8
+ 834.327286n 0 836.266062n 0 836.286062n 1.8 838.243702n 1.8
+ 838.263702n 0 840.221342n 0 840.241342n 1.8 842.163754n 1.8
+ 842.183754n 0 844.106167n 0 844.126167n 1.8 846.048898n 1.8
+ 846.068898n 0 847.991629n 0 848.011629n 1.8 849.950750n 1.8
+ 849.970750n 0 851.909870n 0 851.929870n 1.8 853.856837n 1.8
+ 853.876837n 0 855.803804n 0 855.823804n 1.8 857.790954n 1.8
+ 857.810954n 0 859.778103n 0 859.798103n 1.8 861.759714n 1.8
+ 861.779714n 0 863.741325n 0 863.761325n 1.8 865.721208n 1.8
+ 865.741208n 0 867.701090n 0 867.721090n 1.8 869.635106n 1.8
+ 869.655106n 0 871.569121n 0 871.589121n 1.8 873.556848n 1.8
+ 873.576848n 0 875.544574n 0 875.564574n 1.8 877.491563n 1.8
+ 877.511563n 0 879.438552n 0 879.458552n 1.8 881.412436n 1.8
+ 881.432436n 0 883.386320n 0 883.406320n 1.8 885.348595n 1.8
+ 885.368595n 0 887.310870n 0 887.330870n 1.8 889.285133n 1.8
+ 889.305133n 0 891.259397n 0 891.279397n 1.8 893.218198n 1.8
+ 893.238198n 0 895.176998n 0 895.196998n 1.8 897.137773n 1.8
+ 897.157773n 0 899.098547n 0 899.118547n 1.8 901.070286n 1.8
+ 901.090286n 0 903.042026n 0 903.062026n 1.8 904.976650n 1.8
+ 904.996650n 0 906.911275n 0 906.931275n 1.8 908.846793n 1.8
+ 908.866793n 0 910.782312n 0 910.802312n 1.8 912.742178n 1.8
+ 912.762178n 0 914.702044n 0 914.722044n 1.8 916.640742n 1.8
+ 916.660742n 0 918.579440n 0 918.599440n 1.8 920.541699n 1.8
+ 920.561699n 0 922.503959n 0 922.523959n 1.8 924.438531n 1.8
+ 924.458531n 0 926.373104n 0 926.393104n 1.8 928.346976n 1.8
+ 928.366976n 0 930.320847n 0 930.340847n 1.8 932.299521n 1.8
+ 932.319521n 0 934.278194n 0 934.298194n 1.8 936.241786n 1.8
+ 936.261786n 0 938.205378n 0 938.225378n 1.8 940.157710n 1.8
+ 940.177710n 0 942.110043n 0 942.130043n 1.8 944.073472n 1.8
+ 944.093472n 0 946.036901n 0 946.056901n 1.8 947.984216n 1.8
+ 948.004216n 0 949.931530n 0 949.951530n 1.8 951.884758n 1.8
+ 951.904758n 0 953.837985n 0 953.857985n 1.8 955.798677n 1.8
+ 955.818677n 0 957.759369n 0 957.779369n 1.8 959.708937n 1.8
+ 959.728937n 0 961.658505n 0 961.678505n 1.8 963.611270n 1.8
+ 963.631270n 0 965.564035n 0 965.584035n 1.8 967.527774n 1.8
+ 967.547774n 0 969.491514n 0 969.511514n 1.8 971.416237n 1.8
+ 971.436237n 0 973.340960n 0 973.360960n 1.8 975.268496n 1.8
+ 975.288496n 0 977.196032n 0 977.216032n 1.8 979.165056n 1.8
+ 979.185056n 0 981.134081n 0 981.154081n 1.8 983.077678n 1.8
+ 983.097678n 0 985.021275n 0 985.041275n 1.8 986.979825n 1.8
+ 986.999825n 0 988.938376n 0 988.958376n 1.8 990.882004n 1.8
+ 990.902004n 0 992.825633n 0 992.845633n 1.8 994.783223n 1.8
+ 994.803223n 0 996.740814n 0 996.760814n 1.8 998.687855n 1.8
+ 998.707855n 0 1000.634896n 0 1000.654896n 1.8 1002.595288n 1.8
+ 1002.615288n 0 1004.555680n 0 1004.575680n 1.8 1006.525468n 1.8
+ 1006.545468n 0 1008.495256n 0 1008.515256n 1.8 1010.438835n 1.8
+ 1010.458835n 0 1012.382414n 0 1012.402414n 1.8 1014.326265n 1.8
+ 1014.346265n 0 1016.270116n 0 1016.290116n 1.8 1018.204073n 1.8
+ 1018.224073n 0 1020.138030n 0 1020.158030n 1.8 1022.131457n 1.8
+ 1022.151457n 0 1024.124885n 0 1024.144885n 1.8 1026.132013n 1.8
+ 1026.152013n 0 1028.139140n 0 1028.159140n 1.8 1030.068496n 1.8
+ 1030.088496n 0 1031.997852n 0 1032.017852n 1.8 1033.967170n 1.8
+ 1033.987170n 0 1035.936489n 0 1035.956489n 1.8 1037.958203n 1.8
+ 1037.978203n 0 1039.979918n 0 1039.999918n 1.8 1041.921841n 1.8
+ 1041.941841n 0 1043.863765n 0 1043.883765n 1.8 1045.830315n 1.8
+ 1045.850315n 0 1047.796866n 0 1047.816866n 1.8 1049.777459n 1.8
+ 1049.797459n 0 1051.758051n 0 1051.778051n 1.8 1053.736873n 1.8
+ 1053.756873n 0 1055.715695n 0 1055.735695n 1.8 1057.690454n 1.8
+ 1057.710454n 0 1059.665214n 0 1059.685214n 1.8 1061.619622n 1.8
+ 1061.639622n 0 1063.574030n 0 1063.594030n 1.8 1065.527482n 1.8
+ 1065.547482n 0 1067.480935n 0 1067.500935n 1.8 1069.462420n 1.8
+ 1069.482420n 0 1071.443905n 0 1071.463905n 1.8 1073.363984n 1.8
+ 1073.383984n 0 1075.284062n 0 1075.304062n 1.8 1077.229220n 1.8
+ 1077.249220n 0 1079.174379n 0 1079.194379n 1.8 1081.128503n 1.8
+ 1081.148503n 0 1083.082627n 0 1083.102627n 1.8 1085.034284n 1.8
+ 1085.054284n 0 1086.985940n 0 1087.005940n 1.8 1088.937910n 1.8
+ 1088.957910n 0 1090.889879n 0 1090.909879n 1.8 1092.834781n 1.8
+ 1092.854781n 0 1094.779682n 0 1094.799682n 1.8 1096.736190n 1.8
+ 1096.756190n 0 1098.692697n 0 1098.712697n 1.8 1100.656301n 1.8
+ 1100.676301n 0 1102.619905n 0 1102.639905n 1.8 1104.543432n 1.8
+ 1104.563432n 0 1106.466960n 0 1106.486960n 1.8 1108.417004n 1.8
+ 1108.437004n 0 1110.367048n 0 1110.387048n 1.8 1112.332071n 1.8
+ 1112.352071n 0 1114.297094n 0 1114.317094n 1.8 1116.271574n 1.8
+ 1116.291574n 0 1118.246053n 0 1118.266053n 1.8 1120.239973n 1.8
+ 1120.259973n 0 1122.233893n 0 1122.253893n 1.8 1124.212007n 1.8
+ 1124.232007n 0 1126.190122n 0 1126.210122n 1.8 1128.153556n 1.8
+ 1128.173556n 0 1130.116990n 0 1130.136990n 1.8 1132.072988n 1.8
+ 1132.092988n 0 1134.028987n 0 1134.048987n 1.8 1135.999294n 1.8
+ 1136.019294n 0 1137.969601n 0 1137.989601n 1.8 1139.926287n 1.8
+ 1139.946287n 0 1141.882973n 0 1141.902973n 1.8 1143.863249n 1.8
+ 1143.883249n 0 1145.843526n 0 1145.863526n 1.8 1147.840433n 1.8
+ 1147.860433n 0 1149.837341n 0 1149.857341n 1.8 1151.794029n 1.8
+ 1151.814029n 0 1153.750718n 0 1153.770718n 1.8 1155.690450n 1.8
+ 1155.710450n 0 1157.630182n 0 1157.650182n 1.8 1159.553682n 1.8
+ 1159.573682n 0 1161.477182n 0 1161.497182n 1.8 1163.418879n 1.8
+ 1163.438879n 0 1165.360576n 0 1165.380576n 1.8 1167.333522n 1.8
+ 1167.353522n 0 1169.306467n 0 1169.326467n 1.8 1171.243927n 1.8
+ 1171.263927n 0 1173.181387n 0 1173.201387n 1.8 1175.135694n 1.8
+ 1175.155694n 0 1177.090000n 0 1177.110000n 1.8 1179.048500n 1.8
+ 1179.068500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
